US06974802B2
d) 5-(N-FMOC-L-valyloxy)-4-stearoyloxy-pentanoic acid.
A solution of benzyl 5-(N-FMOC-L-valyloxy)-4-stearoyloxy-2-pentenoate (3.8 g, 4.69 mmole) in 50 ml ethyl acetate was hydrogenated with 10% palladium on charcoal (0.5 g) at normal pressure for five hours at room temperature. The catalyst was filtered and washed with ethyl acetate and 1,4-dioxane. The solution was evaporated under reduced pressure Yield: 3.3 g=99%

reactant | benzyl 5-(N-FMOC-L-valyloxy)-4-stearoyloxy-2-pentenoate | 4.69 mmole, 3.8 g | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](C(C)C)C(=O)OCC(C=CC(=O)OCC1=CC=CC=C1)OC(CCCCCCCCCCCCCCCCC)=O | C50H67NO8
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
catalyst | palladium on charcoal | 0.5 g | [Pd] | Pd
product | 5-(N-FMOC-L-valyloxy)-4-stearoyloxy-pentanoic acid | C(=O)(OCC1C2=CC=CC=C2C2=CC=CC=C12)N[C@@H](C(C)C)C(=O)OCC(CCC(=O)O)OC(CCCCCCCCCCCCCCCCC)=O | C43H63NO8
